US07763639B2
4-[2-METHYL-3-(METHYLSULFONYL)PHENYL]-1-PROPYLPIPERIDINE
Preparation according to Example 1: 4-[2-methyl-3-(methylsulfonyl)phenyl]piperidine (0.41 g, 1.62 mmol), acetonitrile (40 ml), potassium carbonate (0.53 g, 4.8 mmol) and 1-iodopropane (0.127 ml, 1.62 mmol). Yield: 0.238 g (50%). The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 233-235° C. MS m/z (relative intensity, 70 eV) 295 (M+, 4), 267 (17), 266 (bp), 129 (13), 115 (14).

reactant | 4-[2-methyl-3-(methylsulfonyl)phenyl]piperidine | 1.62 mmol, 0.41 g | CC1=C(C=CC=C1S(=O)(=O)C)C1CCNCC1 | C13H19NO2S
reactant | potassium carbonate | 4.8 mmol, 0.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodopropane | 1.62 mmol, 0.127 ml | ICCC | C3H7I
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 4-[2-METHYL-3-(METHYLSULFONYL)PHENYL]-1-PROPYLPIPERIDINE | CC1=C(C=CC=C1S(=O)(=O)C)C1CCN(CC1)CCC | C16H25NO2S
